US05675030
[4S-(4alpha,12aalpha)]-9-[(Chloroacetyl)amino-4-(dimethylamino)-1,4,4a,5,5a,6,11,12a-octahydro-3,10,12,12a-tetrahydroxy-1,11-dioxo-2-naphthacenecarboxamide
Two and a half grams of 9-amino-6-demethyl-6-deoxytetracycline hydrochloride is added in portions, at 15°-20° C., to a solution of 17 ml of dimethylformamide and 0.6 ml of concentrated sulfuric acid. The added solid is completely in solution after 15 minutes. The solution is then cooled to 0° C. and 2.3 g of chloroacetic anhydride in 5 ml of dimethylformamide is added, dropwise, while maintaining the temperature at 0°-2° C. The reaction mixture is stirred for 30 minutes, poured into 40 g of ice and 35 ml of water, and the pH is adjusted to pH 5.34 with concentrated ammonium hydroxide. The resulting solid is stirred for 30 minutes, collected, washed 2× with water, washed 2× acetone and dried in vacuo to give 2.4 g of the desired intermediate.

reactant | 9-amino-6-demethyl-6-deoxytetracycline hydrochloride | Two and a half grams | CN(C)[C@H]1[C@@H]2C[C@@H]3CC4=C(C(=C(C=C4)N)O)C(=C3C(=O)[C@@]2(C(=C(C1=O)C(=O)N)O)O)O.Cl
reactant | sulfuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | chloroacetic anhydride | 2.3 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
solvent | water | 35 ml | O | H2O
product | (Chloroacetyl)amino-4-(dimethylamino)-1,4,4a,5,5a,6,11,12a-octahydro-3,10,12,12a-tetrahydroxy-1,11-dioxo-2-naphthacenecarboxamide | 2.4 g | ClCC(=O)NC1(C(=C(C(C2(C(=C3C(C4=C(C=CC=C4CC3CC12)O)=O)O)O)=O)C(=O)N)O)N(C)C | C23H24ClN3O8
